US07163947B2
A solution of N1-isopropyl-2-propyl-7-(2-pyridin-3-yl-vinyl)-1H-imidazo[4,5-c]quinoline-1,4-diamine (0.97 g, 2.5 mmol) in 15 mL of EtOH and 15 mL of MeOH was treated with palladium on carbon (0.10 g, 0.050 mmol, 5% w/w). The mixture was placed under an atmosphere of hydrogen (3.8×105 Pa) and shaken at ambient temperature. After 3 d, the reaction mixture was filtered through a pad of CELITE filter agent and rinsed with a 1:1 MeOH:EtOH until the filtrate ran clear. The filtrate was concentrated under reduced pressure to yield a light green solid. The solid was purified by chromatography (SiO2, 10–50% (80:18:2 CHCl3:MeOH:NH4OH) in CHCl3) to yield a clear oil. The oil was twice crystallized from MeCN to give N1-isopropyl-2-propyl-7-(2-pyridin-3-ylethyl)-1H-imidazo[4,5-c]quinoline-1,4-diamine (0.224 g) as white crystals. mp 100–103° C.; 1H NMR (300 MHz, DMSO-d6) δ 8.43 (d, J=1.6 Hz, 1H), 8.37 (dd, J=3.8, 1.6 Hz, 1H), 8.32 (d, J=8.4 Hz, 1H), 7.68–7.64 (m, 1H), 7.37 (d, J=1.5 Hz, 1H), 7.31–7.26 (m, 1H), 7.12 (dd, J=8.4, 1.7 Hz, 1H), 6.93 (d, J=1.4 Hz, 1H), 6.39 (s, 2H), 3.52–3.44 (m, 1H), 3.00 (s, 4H), 2.89 (bs, 2H), 1.91–1.79 (m, 2H), 1.04–1.00 (m, 9H); 13C NMR (125 MHz, DMSO-d6) δ 154.2, 152.0, 150.1, 147.5, 145.0, 139.6, 137.2, 136.3, 132.8, 125.4, 123.9, 123.7, 122.0, 121.1, 113.1, 51.2, 37.0, 34.1, 28.2, 21.1, 20.6, 14.3; MS (APCI) m/z 389 (M+H)+; Anal. Calcd for C23H28N6: C, 71.10; H, 7.26; N, 21.63; Found: C, 70.87; H, 7.54; N, 21.58.

reactant | N1-isopropyl-2-propyl-7-(2-pyridin-3-yl-vinyl)-1H-imidazo[4,5-c]quinoline-1,4-diamine | 2.5 mmol, 0.97 g | C(C)(C)NN1C(=NC=2C(=NC=3C=C(C=CC3C21)C=CC=2C=NC=CC2)N)CCC | C23H26N6
solvent | EtOH | 15 mL | CCO | C2H6O
solvent | MeOH | 15 mL | CO | CH4O
catalyst | palladium on carbon | 0.050 mmol, 0.10 g | [Pd] | Pd
product | N1-isopropyl-2-propyl-7-(2-pyridin-3-ylethyl)-1H-imidazo[4,5-c]quinoline-1,4-diamine | 0.224 g | C(C)(C)NN1C(=NC=2C(=NC=3C=C(C=CC3C21)CCC=2C=NC=CC2)N)CCC | C23H28N6
